US06858651B2
In analogy to example 11.11, trans-4-Bromo-N-(4-hydroxy-cyclohexyl)-N-methyl-benzenesulfonamide and 1,6-dibromohexane were reacted to yield trans-4-Bromo-N-[4-(6-bromo-hexyloxy)-cyclohexyl]-N-methyl-benzenesulfonamide as off-white solid, MS: 510 (MH+, 1Br).

reactant | trans-4-Bromo-N-(4-hydroxy-cyclohexyl)-N-methyl-benzenesulfonamide | BrC1=CC=C(C=C1)S(=O)(=O)N(C)[C@@H]1CC[C@H](CC1)O | C13H18BrNO3S
reactant | 1,6-dibromohexane | BrCCCCCCBr | C6H12Br2
product | trans-4-Bromo-N-[4-(6-bromo-hexyloxy)-cyclohexyl]-N-methyl-benzenesulfonamide | BrC1=CC=C(C=C1)S(=O)(=O)N(C)[C@@H]1CC[C@H](CC1)OCCCCCCBr | C19H29Br2NO3S
